US05470862
A mixture of 3-(2-bromoacetyl)pyrazole-3-carboxylic acid ethyl ester (7.00 g), thionicotinamide (3.51 g), and ethanol (50 ml) was refluxed for 16 hours. The resulting mixture was poured into 400 ml of water, and neutralized with 10 g of sodium bicarbonate. Filtration afforded 5.82 g of 3-ethoxycarbonyl-5-(2-(3-pyridinyl)thiazol-4-yl)pyrazole as yellow solids, mp 105°-107° C. NMR: 1.43 (t, 3H), 4.44 (q, 2H), 7.26 (s, 1H, 5-thiazolyl H), 7.70 (s, 1H, 4-pyrazolyl H), 7.42, 8.30, 8.73, 9.27 (4 m, 4H, pyridinyl H's).

reactant | 3-(2-bromoacetyl)pyrazole-3-carboxylic acid ethyl ester | 7.00 g | C(C)OC(=O)C1(N=NC=C1)C(CBr)=O | C8H9BrN2O3
reactant | thionicotinamide | 3.51 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
solvent | water | 400 ml | O | H2O
product | 3-ethoxycarbonyl-5-(2-(3-pyridinyl)thiazol-4-yl)pyrazole | 5.82 g | C(C)OC(=O)C1=NNC(=C1)C=1N=C(SC1)C=1C=NC=CC1 | C14H12N4O2S
